US07449593B2
Synthesis of 9-bromo-10-triphenysilyl anthracene
In a nitrogen atmosphere, 12 g (35.7 mmol) of 9,10-dibromoanthracene, and 300 ml of tetrahydrofuran (THF) were added to a round-bottom flask. Next, 14.4 ml (35.7 mmol, 2.5M) of n-butyl lithium was added dropwise slowly into the round-bottom flask at −78° C. After mixing and reacting for 30 min, 12 g (40.7 mmol) triphenylsilyl chloride with 50 ml THF were added dropwise slowly into the round-bottom flask at −78° C. After reacting at room temperature for 24 hours, the resulting mixture was subjected to extraction with a mixed solvent (ethyl acetate:H2O), dried over anhydrous MgSO4, filtered, and condensed, then the crude product was purified by column chromatography (n-hexane/acetyl acetate=15/1), A 9.0 g of pure 9-bromo-10-triphenysilyl anthracene was collected.

reactant | 9,10-dibromoanthracene | 35.7 mmol, 12 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C14H8Br2
reactant | n-butyl lithium | 35.7 mmol, 2.5M, 14.4 ml | C(CCC)[Li]
reactant | triphenylsilyl chloride | 40.7 mmol, 12 g | C1(=CC=CC=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15ClSi
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 9-bromo-10-triphenysilyl anthracene | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H23BrSi
